datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]3CC[O:33][C:22]([O-:23])=[CH:21]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C)(C2=CC=CC=C2)[C:71]([C:62]2=[N+:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65][N:66]2C2=C(C)C=C(C)C=C2C)=[O:72])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82]>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]2)[S:71](C(F)(F)F)(=[O:72])=[O:82])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72]>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20]([CH:21]=[C:22](C(C)C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CCC[Si:11](CCC)(CCC)[H:10]>>CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CCC[Si+:11](CCC)CCC 10,11=10,20"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2(CC3=CC=CC=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
C/[N:10]=C/C1=CC=CC=C1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20](/[N+:10](C)=C\C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C[S:61]([NH-:10])(=[O:62])=[O:63].Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C[S:61]([NH:10][C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl)(=[O:62])=[O:63] 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12](C)C)=[O:62]>>CC[O:33][C:31]([CH:20]([CH:10]([CH:11]=[N+:12](C)C)[C:61](=[O:62])[O:72]CC)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[C:81]([CH:10]([CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].CC[Si:11](CC)(CC)[H:10]>>CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32].CC[Si+:11](CC)CC 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
